US06372777B1
Preparation of 2-Methyl-1-(5-nitropyridin-2-yl)-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
5-Nitro-pyridin-2-ylamine (5 mmol, 0.7 g), 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting solid was triturated with chloroform, the filtrate was further purified over silica gel to yield the named product, 1H-NMR (CDCl3, ppm): 1.35 t (3H), 2.54 s (3H), 4.30 q (2H), 6.78 s (1H), 6.96-7.25 bm (6H), 8.33 dd (1H) , 9.39 sd (1H).

reactant | 5-Nitro-pyridin-2-ylamine | 5 mmol, 0.7 g | [N+](=O)([O-])C=1C=CC(=NC1)N | C5H5N3O2
reactant | 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-1-(5-nitropyridin-2-yl)-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)C1=NC=C(C=C1)[N+](=O)[O-])C | C19H17N3O4
